US08754226B2
(R)-tert-butyl 4-(3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (Preparation D; 1.0 g, 2.8 mmol) was dissolved in dry DMSO (15 mL) and methyl 3-fluoro-4-hydroxybenzoate (0.56 g, 3.3 mmol) and K2CO3 (0.46 g, 3.3 mmol) were added and the reaction heated to 70° C. under nitrogen. The reaction became purple and then black. The reaction was cooled to ambient temperature after 3 hours, stirred at ambient temperature overnight, partitioned between water and EtOAc, extracted with EtOAc, washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (60% EtOAc in hexanes) to afford (S)-tert-butyl 4-(3-(2-fluoro-4-(methoxycarbonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (1.2 g, 2.7 mmol, 100% yield) as a white solid.

reactant | (R)-tert-butyl 4-(3-(methylsulfonyloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 2.8 mmol, 1.0 g | CS(=O)(=O)O[C@H]1C(N(CC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H26N2O6S
reactant | methyl 3-fluoro-4-hydroxybenzoate | 3.3 mmol, 0.56 g | FC=1C=C(C(=O)OC)C=CC1O | C8H7FO3
reactant | K2CO3 | 3.3 mmol, 0.46 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | (S)-tert-butyl 4-(3-(2-fluoro-4-(methoxycarbonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 2.7 mmol, 1.2 g, 100% yield | FC1=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=CC(=C1)C(=O)OC | C22H29FN2O6
